US06982274B2
{4-Fluoro-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl}-carbamic acid benzyl ester
A total of 1.29 g of 4-fluoro-3-(3-fluoro-phenyl)-1-trityl-1H-indazole-5-carboxylic acid obtained in Production Example II-19-a was dissolved in 12.5 ml of toluene. Under stirring at room temperature, 0.38 ml of triethylamine and 0.566 ml of diphenylphosphoryl azide were added, and the mixture was stirred at room temperature for 2 hours and at 120° C. for further 1.5 hours. To the reaction mixture was added 0.776 ml of benzyl alcohol, followed by stirring at 120° C. for 1.5 hours. After cooling to room temperature, the reaction mixture was added with water, and extracted with ethyl acetate. The resulting organic layer was washed with brine, dried over magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:5), to give 652 mg of the title compound as an ocher yellow oil.

reactant | 4-fluoro-3-(3-fluoro-phenyl)-1-trityl-1H-indazole-5-carboxylic acid | 1.29 g | FC1=C2C(=NN(C2=CC=C1C(=O)O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C33H22F2N2O2
reactant | triethylamine | 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.566 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 0.776 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 12.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | {4-Fluoro-3-(3-fluoro-phenyl)-1-trityl-1H-indazol-5-yl}-carbamic acid benzyl ester | 652 mg | C(C1=CC=CC=C1)OC(NC=1C(=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F)F)=O | C40H29F2N3O2
